US05789406
The preparation is carried out in the same way as in Example 20, from 1 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride, 1 ml of triethylamine and 0.97 ml of 2-methoxyphenyl isocyanate. After reacting for 6 hours at a temperature in the region of 20° C., the insoluble material is filtered and washed with water and then with isopropyl ether. 0.3 g of 8-[3-(2-methoxyphenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one are thus obtained in the form of a beige solid, the melting point of which is greater than 260° C. (Analysis C21H17N5 O3.0.76H2O, % calculated C: 65.11, H: 4.42, N: 18.08, % found C: 64.8, H: 4.3, N: 18.4).

reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride | 1 g | Cl.NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1
reactant | 2-methoxyphenyl isocyanate | 0.97 ml | COC1=C(C=CC=C1)N=C=O | C8H7NO2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 8-[3-(2-methoxyphenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 0.3 g | COC1=C(C=CC=C1)NC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | C21H17N5O3
